US04883914
Preparation of 2,3-dimethyl-2-propionamido-N-(p-tolylsulfonyl)butyramide
2-Amino-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide hydrochloride (1.2 g, 5.3 mol) is dissolved in 25 mL of toluene under N2. Then triethylamine (1.9 mL, 2.5 equivalents) is added, followed by immediate addition of propionyl chloride (0.55 mL, 6.36 mol). The reaction mixture is heated for one hour, and then solvents are removed under reduced pressure. The yellowish residue is recrystallized from EtOH/water, to yield the title product as a white solid having mp 166°-168° C.

reactant | 2-Amino-2,3-dimethyl-N-(p-tolylsulfonyl)butyramide hydrochloride | 5.3 mol, 1.2 g | Cl.NC(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)(C(C)C)C
reactant | triethylamine | 1.9 mL, 2.5 equivalents | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 6.36 mol, 0.55 mL | C(CC)(=O)Cl | C3H5ClO
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | 2,3-dimethyl-2-propionamido-N-(p-tolylsulfonyl)butyramide | CC(C(=O)NS(=O)(=O)C1=CC=C(C=C1)C)(C(C)C)NC(CC)=O | C16H24N2O4S
